US07514583B2
N,N′-bis(3,4-methylenedioxybenzyl)-trans-1,2-diaminocyclohexane (Compound 12B; DC-0012B)
To a solution of piperonal (0.8 g, 5.3 mmol) and 1,2-diaminocyclohexane (0.296 g, 2.6 mmol) in dry methanol (25 ml) was added sodium cyanoborohydride (0.38 g, 6 mmol) and the mixture stirred for 48 h. The mixture was filtered and the solvents removed in vacuo to give the crude product. Crystallization from methanol gave DC-0012B as an off-white crystalline solid (0.298 g, 30%).

reactant | piperonal | 5.3 mmol, 0.8 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 1,2-diaminocyclohexane | 2.6 mmol, 0.296 g | NC1C(CCCC1)N | C6H14N2
reactant | sodium cyanoborohydride | 6 mmol, 0.38 g | C(#N)[BH3-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | N,N′-bis(3,4-methylenedioxybenzyl)-trans-1,2-diaminocyclohexane | 0.298 g, 30% | C1OC=2C=C(CN[C@H]3[C@@H](CCCC3)NCC3=CC4=C(C=C3)OCO4)C=CC2O1 | C22H26N2O4
